US09120776B2
A solution of dihydro-2H-pyran-2,6(3H)-dione (483 mg, 4.23 mmol) and 4-aminobenzonitrile (500 mg, 4.23 mmol) in THF (15 mL) was heated with reflux for 14 hr. The reaction solution was concentrated under reduced pressure, and the precipitate was washed with ethyl acetate to give 5-(4-cyanophenylamino)-5-oxopentanoic acid (782 mg, 3.37 mmol, 80%) as a pale-yellow powder.

reactant | dihydro-2H-pyran-2,6(3H)-dione | 4.23 mmol, 483 mg | O1C(CCCC1=O)=O | C5H6O3
reactant | 4-aminobenzonitrile | 4.23 mmol, 500 mg | NC1=CC=C(C#N)C=C1 | C7H6N2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 5-(4-cyanophenylamino)-5-oxopentanoic acid | 3.37 mmol, 782 mg, 80% | C(#N)C1=CC=C(C=C1)NC(CCCC(=O)O)=O | C12H12N2O3
